US05254592
A solution of 2,4-bis(1,1-dimethylpropyl)phenol (9.23 g, 0.039 mol) in dry tetrahydrofuran (30 mL) was stirred at room temperature under nitrogen atmosphere. Sodium hydride (1.14 g of 80% dispersion, 0.04 mol) in dry tetrahydrofuran (10 mL) was added and the mixture stirred for 30 minutes to give a clear, green solution. 4-Chloro-3-nitropyridine (5.0 g, 0.032 mol) was added and the mixture heated to 50° C. for 4 hours. The mixture was cooled and submitted to aqueous, acidic work-up. The crude product was purified by chromatogaphy on silica gel with dichloromethane eluent to give the product 3-nitro-4-(2,4-bis(1,1-dimethylpropyl)phenoxy)-pyridine in 65% yield. Analyses by proton NMR and mass spectroscopy were consistent with the proposed structure.

reactant | 2,4-bis(1,1-dimethylpropyl)phenol | 0.039 mol, 9.23 g | CC(CC)(C)C1=C(C=CC(=C1)C(CC)(C)C)O | C16H26O
reactant | Sodium hydride | 0.04 mol, 1.14 g | [H-].[Na+]
reactant | 4-Chloro-3-nitropyridine | 0.032 mol, 5.0 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-nitro-4-(2,4-bis(1,1-dimethylpropyl)phenoxy)-pyridine | 65% yield | [N+](=O)([O-])C=1C=NC=CC1OC1=C(C=C(C=C1)C(CC)(C)C)C(CC)(C)C | C21H28N2O3
